US09193741B2
Synthesis of 2-(4-chlorophenoxy)-1-(4-(2-(4-fluorophenyl)-5-methylthiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)ethanone
To a solution of 7-chloro-2-(4-fluorophenyl)-5-methylthiazolo[5,4-d]pyrimidine (30 mg, 0.11 mmol) and triethylamine (22 μl, 0.16 mmol) in dioxane (1 ml) was added 2-(4-chlorophenoxy)-1-(piperazin-1-yl)ethanone (38 mg, 0.16 mmol). The reaction mixture was heated at 70° C. for 3 hours. After cooling, the volatiles were removed under reduced pressure. The crude residue was purified by chromatography on silica gel (CH2Cl2/MeOH 70:1) to yield the title compound as a white solid (40 mg, 75%).

reactant | 7-chloro-2-(4-fluorophenyl)-5-methylthiazolo[5,4-d]pyrimidine | 0.11 mmol, 30 mg | ClC=1C2=C(N=C(N1)C)SC(=N2)C2=CC=C(C=C2)F | C12H7ClFN3S
reactant | triethylamine | 0.16 mmol, 22 μl | C(C)N(CC)CC | C6H15N
reactant | 2-(4-chlorophenoxy)-1-(piperazin-1-yl)ethanone | 0.16 mmol, 38 mg | ClC1=CC=C(OCC(=O)N2CCNCC2)C=C1 | C12H15ClN2O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 2-(4-chlorophenoxy)-1-(4-(2-(4-fluorophenyl)-5-methylthiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)ethanone | 40 mg, 75% | ClC1=CC=C(OCC(=O)N2CCN(CC2)C=2C3=C(N=C(N2)C)SC(=N3)C3=CC=C(C=C3)F)C=C1 | C24H21ClFN5O2S
